Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
nausea, vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old male with history of kidney stones, pancreatitis, 
cyclical vomiting, sciatica, presents with nausea and vomiting. 
Per patient and his mother's report, he has been feeling 
nauseous and vomiting for the past 2 days. There is no diarrhea, 
no fevers. Patient smokes marijuana daily but has not smoked at 
all the past 2 days. He has not been able to keep any food down. 
He also reports he has been having diffuse abdominal pain and 
back pain.  The abdominal pain is cramping in nature, diffuse. 
Back pain is cramping over left back, under his shoulder.  He 
reports that this started after he tripped and fell two days 
ago, landing on his back.

In the ED, initial vitals were 97.8 108 140/80 20 100% on RA.  
Patient was uncomfortable, moving all extremities, and had a 
soft abdomen.  Labs showed WBC 19.4K, creatinine 4.6, HCO3 11, K 
4.5, Na 132, lactate 4.9, normal lipase and LFTs.  CT A/P showed 
no intraabdominal process.  2 liters NS IVFs were given and 
lactate improved to 2.1.  Lorazepam 1 mg IV and ondansetron 4 mg 
IV were given.  Urinalysis showed 7 WBCs with few bacteria, 
trace ketones, 6 RBCs.  Urine toxicology was positive for 
opiates, blood tox screen was negative..  Blood culture was 
sent.  Vitals on transfer were 98.7 85 146/93 18 99% on RA.

Currently, his abdominal pain has resolved.  His back pain is 
currently ___, located across his upper back.  He is not 
currently nauseous.  He reports not ingesting any opiates, but 
that he sells opiate pills, and thinks he may have gotten some 
residue on his hands.  He reports no salicylate or any other 
ingestion.  He states that he has urinated only once in two 
days, and that was in the ED.  There was no hematuria.  He 
reports his nausea improves with hot showers.
 
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache. Denies cough, shortness of breath. Denies 
chest pain or tightness, palpitations. Denies diarrhea, 
constipation or abdominal pain. No recent change in bowel or 
bladder habits. No dysuria. Denies arthralgias or myalgias. Ten 
point review of systems is otherwise negative.  
 
Past Medical History:
None
 
Social History:
___
Family History:
Father with asthma
 
Physical Exam:
Vitals: T: 99.5 BP: 131/88 P: 78 R: 18 O2: 100% on RA  
GEN: Alert, oriented to name, place and situation. Fatigued 
appearing but comfortable, no acute signs of distress.  
HEENT: NCAT, Pupils equal and reactive, sclerae anicteric, OP 
clear, MM very dry.  
Neck: Supple, no JVD
Lymph nodes: No cervical, supraclavicular LAD.  
CV: S1S2, reg rate and rhythm, no murmurs, rubs or gallops.  
RESP: Good air movement bilaterally, no rhonchi or wheezing.  
ABD: Soft, non-tender, non-distended, + bowel sounds.  
EXTR: No lower leg edema, no clubbing or cyanosis  
DERM: No active rash.  
Neuro: non-focal.  
PSYCH: Appropriate and calm. 
 
Pertinent Results:
___ 10:55PM BLOOD WBC-19.4* RBC-5.78# Hgb-18.3*# Hct-50.5 
MCV-87# MCH-31.7 MCHC-36.2 RDW-14.6 RDWSD-44.7 Plt ___
___ 10:55PM BLOOD Neuts-76.5* Lymphs-11.3* Monos-10.9 
Eos-0.1* Baso-0.3 Im ___ AbsNeut-14.78* AbsLymp-2.17 
AbsMono-2.10* AbsEos-0.01* AbsBaso-0.05
___ 10:55PM BLOOD ___ PTT-37.5* ___
___ 10:55PM BLOOD Glucose-192* UreaN-32* Creat-4.6*# 
Na-132* K-7.0* Cl-92* HCO3-11* AnGap-36*
___ 10:55PM BLOOD ALT-32 AST-55* AlkPhos-76 TotBili-0.5
___ 10:55PM BLOOD Albumin-5.8*
___ 10:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 10:55PM BLOOD Osmolal-296
___ 11:13PM BLOOD ___ pO2-22* pCO2-30* pH-7.45 
calTCO2-21 Base XS--2
___ 11:13PM BLOOD Lactate-4.9* K-4.5
___ 02:40AM BLOOD Lactate-2.1*
 
Brief Hospital Course:
___ year old male with history of kidney stones, pancreatitis, 
cyclical vomiting, sciatica, presents with nausea and vomiting.  
 These symptoms were felt to be secondary to cannabinoid induced 
hyperemesis, given his chronic use of marijuana and associated 
vomiting.   These symptoms resolved upon cessation of marijuana. 
 

He was also found to have an elevated creatinine > 2.0 secondary 
to dehydration - this improved rapidly to 1.0 after IV 
hydration.  

He also initially had transient leukocytosis felt to be 
secondary to dehydration which quickly resolved.  An initial 
blood culture grew gram positive cocci in clusters which was 
deemed a contaminant; secondary cultures prior to antibiotics 
remained negative - he did receive IV vancomycin transiently 
until surveillance cultures were negative.   

Urine testing was positive for opiates although he denied opiate 
use.

He was discharged with follow up with his primary care -labs had 
returned to normal and he was able to tolerate an oral diet 
successfully.

___ MD 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Marijuana induced emesis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,

You were admitted for vomiting and nausea and difficulty with 
eating.   These symptoms were because of chronic use of 
marijuana.   Please try to cut back on marijuana use to prevent 
this.   Reducing alcohol intake will also prevent liver damage - 
we have provided you with resources to help you with both of 
these. 

You also had injured kidneys because of dehydration and repeated 
vomiting.  We gave you fluids and your kidneys improved.   
Please try to take a glass of water every few hours at home 
while your urine looks dark in color.   Try to stay hydrated 
daily.  
Please see your primary care physician ___ 1 week of 
discharge.  
 
Followup Instructions:
___